US04686548
Aralkylation of cumene with styrene was carried out in the presence of sulfuric acid catalyst. From the reaction product, a fraction mainly containing 1-phenyl-1-(isopropylphenyl)ethane was obtained by distillation.

reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
catalyst | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-phenyl-1-(isopropylphenyl)ethane | C1(=CC=CC=C1)C(C)C1=C(C=CC=C1)C(C)C | C17H20
